US05354747
1,1-dimethylethyl 4-[1-oxo-3-(3-pyridinyl)propyl]-1-piperazinecarboxylate
A sample of 3-pyridinepropanoic acid (0.1 g, 0.7 mmol) was reacted with t-butyloxycarbonyl piperazine (0.19 g, 1.0 mmol) by the method of Example 26 to produce 95 mg of the white solid title compound after chromatography.

reactant | 3-pyridinepropanoic acid | 0.7 mmol, 0.1 g | N1=CC(=CC=C1)CCC(=O)O | C8H9NO2
reactant | t-butyloxycarbonyl piperazine | 1.0 mmol, 0.19 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 1,1-dimethylethyl 4-[1-oxo-3-(3-pyridinyl)propyl]-1-piperazinecarboxylate | O=C(CCC=1C=NC=CC1)N1CCN(CC1)C(=O)OC(C)(C)C | C17H25N3O3
